US03970454
8. N,N-dimethyl-1,2,3,4-tetrahydro-5-amino-7-propyl-8-hydroxyquinolinium bromide
One introduces into a stainless steel autoclave 15.75 g of N,N-dimethyl-1,2,3,4-tetrahydro-5-phenylazo-7-propyl-8-hydroxyquinolinium bromide (i.e. 0.05 mole) with 170 ml of water and 17 ml of methanol, and one adds 3 g of 5% palladium on charcoal. One hydrogenates under a 3 kg/cm2 to 5 kg/cm2 hydrogen pressure. After cooling, one filters off the catalyst, evaporates the filtrate, and redissolves the residue in ether so as to remove the aniline. One recrystallizes in acetonitrile and one washes again with ether.

reactant | N,N-dimethyl-1,2,3,4-tetrahydro-5-phenylazo-7-propyl-8-hydroxyquinolinium bromide | 0.05 mole | [Br-].C[N+]1(CCCC2=C(C=C(C(=C12)O)CCC)N=NC1=CC=CC=C1)C
reactant | water | 170 ml | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
solvent | methanol | 17 ml | CO | CH4O
product | N,N-dimethyl-1,2,3,4-tetrahydro-5-amino-7-propyl-8-hydroxyquinolinium bromide | [Br-].C[N+]1(CCCC2=C(C=C(C(=C12)O)CCC)N)C | InChI=1S/C14H22N2O.BrH/c1-4-6-10-9-12(15)11-7-5-8-16(2,3)13(11)14(10)17;/h9H,4-8,15H2,1-3H3;1H
